US07763657B2
To a suspension of iodine and AgNO2 in methylene chloride was added a solution of (4-amino-2-methoxy-benzyl)-carbamic acid tert-butyl ester (1.3 g, 5.15 mmol) in methylene chloride at 0° C., and the mixture was stirred for 30 min at 0° C. and more stirred for 30 min at ambient temperature. The reaction was quenched with Na2S2O3. The reaction solution was extracted with methylenechloride, washed with water and brine, dried over anhyd. MgSO4, filtered and concentrated under reduced pressure. The obtained liquid was column-chromatographed (hexane/ethylacetate=2/1) to yield (4-amino-5-iodo-2-methoxy-benzyl)-carbamic acid tert-butyl ester (925 mg, 47%).

reactant | iodine | II | I2
reactant | (4-amino-2-methoxy-benzyl)-carbamic acid tert-butyl ester | 5.15 mmol, 1.3 g | C(C)(C)(C)OC(NCC1=C(C=C(C=C1)N)OC)=O | C13H20N2O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (4-amino-5-iodo-2-methoxy-benzyl)-carbamic acid tert-butyl ester | 925 mg, 47% | C(C)(C)(C)OC(NCC1=C(C=C(C(=C1)I)N)OC)=O | C13H19IN2O3
